US09029545B2
2-Bromo-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-amine
Alternatively, 4-amino-2-bromo-6-methyl-3-[3-(methyloxy)-phenyl]thieno-[2,3-b]pyridine-5-carboxylic acid (856 mg, 2.177 mmol) (Description 16) in diphenyl ether (8 mL, 50.3 mmol) was heated at 200° C. for 4.5 h and stand at RT overnight for 16 h. The mixture was purified by chromatography on silica gel, eluting with a gradient of 0-100% ethyl acetate in cyclohexane, to give the title compound (471 mg).

reactant | 4-amino-2-bromo-6-methyl-3-[3-(methyloxy)-phenyl]thieno-[2,3-b]pyridine-5-carboxylic acid | 2.177 mmol, 856 mg | NC1=C2C(=NC(=C1C(=O)O)C)SC(=C2C2=CC(=CC=C2)OC)Br | C16H13BrN2O3S
reactant | diphenyl ether | 50.3 mmol, 8 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 2-Bromo-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-amine | 471 mg | BrC1=C(C2=C(N=C(C=C2N)C)S1)C1=CC(=CC=C1)OC | C15H13BrN2OS
